US04329347
6-[4-(4-Chlorophenyl-mercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 6-(4-chlorobutoxy)-carbostyril (m.p. 206°-208° C.) and 4-chlorothiophenol.

reactant | 6-(4-chlorobutoxy)-carbostyril | ClCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14ClNO2
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | 6-[4-(4-Chlorophenyl-mercapto)-butoxy]-carbostyril | ClC1=CC=C(C=C1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18ClNO2S
